US07244744B2
In a sealed glass tube, (4-butyl-phenyl)-[4-(2-methanesulfonyl-benzoimidazol-1-yl)-piperidin-1-yl]-methanone (9 mg) and hexyl amine (3 drops) were heated at 120-150° C. for 18 h. The crude product was taken into 1 ml 1:1 acetonitrile/water and purified via preparative liquid chromatography to give (4-butyl-phenyl)-[4-(2-hexylamino-benzoimidazol-1-yl)-piperidin-1-yl]-methanone (4.8 mg).

reactant | (4-butyl-phenyl)-[4-(2-methanesulfonyl-benzoimidazol-1-yl)-piperidin-1-yl]-methanone | 9 mg | C(CCC)C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1C(=NC2=C1C=CC=C2)S(=O)(=O)C | C24H29N3O3S
catalyst | hexyl amine | 3 drops | C(CCCCC)N | C6H15N
solvent | acetonitrile water | C(C)#N.O
product | (4-butyl-phenyl)-[4-(2-hexylamino-benzoimidazol-1-yl)-piperidin-1-yl]-methanone | 4.8 mg | C(CCC)C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1C(=NC2=C1C=CC=C2)NCCCCCC | C29H40N4O
